* C:\Users\Dell\OneDrive\Desktop\LTSpice ecd\encore_new_!.asc
XU1 0 N004 N008 N005 N009 N004 N006 N005 NE555
V1 N005 0 12
R1 N005 N006 2.7k
R2 N006 N010 10k
D1 N004 N010 1N914
D2 N006 N004 1N914
C1 N004 0 0.053µ
M1 N001 N007 N002 N002 IRFZ44N
L1 N002 N003 9.15µ
D3 0 N002 1N5817
C2 N003 0 10.8µ
V2 N001 0 24
C3 N009 0 0.1µ
R5 N007 0 10k
R6 N008 N007 3.6k
R3 N003 0 20k
.model D D
.lib C:\Users\Dell\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Dell\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 20m
.lib NE555.sub
.backanno
.end
